US04898455
A solution of 2.1 g of p-(5-pentyl-2-pyridyl)benzoic acid in 80 ml of acetone was cooled to 2° C. while stirring and gassing with nitrogen and treated dropwise within 10 minutes with a solution of 2.16 ml of triethylamine in 15 ml of acetone. The reaction mixture was then treated dropwise at 1°-2° C. within 10 minutes with a solution of 1.86 ml of ethyl chloroformate in 8 ml of acetone and stirred at this temperature for a further 30 minutes. Subsequently, a solution of 1.38 g of sodium azide in 8 ml of water was added dropwise to the reaction mixture at 1°-2° C. within 10 minutes and the resulting mixture was stirred for a further 1 hour in an ice-bath. Thereafter, the reaction mixture was poured into 200 ml of water and extracted with diethyl ether. The organic phase was washed with water, dried over sodium sulphate, filtered and freed from solvent. Purification of the resulting light yellowish crystals (2.1 g) by chromatography on 120 g of silica gel with 1 l of methylene chloride gave 2.15 g of p-(5-pentyl-2-pyridyl)benzoic acid azide as a light yellowish paste.

reactant | p-(5-pentyl-2-pyridyl)benzoic acid | 2.1 g | C(CCCC)C=1C=CC(=NC1)C1=CC=C(C(=O)O)C=C1 | C17H19NO2
reactant | triethylamine | 2.16 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.86 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 1.38 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 80 ml | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | acetone | 8 ml | CC(=O)C | C3H6O
solvent | water | 8 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | p-(5-pentyl-2-pyridyl)benzoic acid azide | 2.15 g | C(CCCC)C=1C=CC(=NC1)C1=CC=C(C(=O)N=[N+]=[N-])C=C1 | C17H18N4O
